US05006515
Dimethyl 3-(2-hydroxyphenyl)-2-isoxazolin-5-ylphosphonate (by procedure (a))
41.1 g (0.3 mol) of salicylaldoxime in dichloromethane are refluxed with 40.1 g (0.3 mol) of N-chlorosuccinimide and 1.5 ml of pyridine for 3 hours. Ice-water is added and the mixture is extracted, and the hydroxamoyl chloride is recrystallized from dichloromethane/petroleum ether. 25.5 g (0.15 mol) of this are reacted with 20.4 g (0.15 mol) of dimethyl vinylphosphonate and 22.9 ml (0.165 mol) of triethylamine in dichloromethane in analogy to Example 5 to give 25.8 g of oily product.

reactant | salicylaldoxime | 0.3 mol, 41.1 g | C(C=1C(O)=CC=CC1)=NO | C7H7NO2
reactant | N-chlorosuccinimide | 0.3 mol, 40.1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl vinylphosphonate | 0.15 mol, 20.4 g | C(=C)P(OC)(OC)=O | C4H9O3P
reactant | triethylamine | 0.165 mol, 22.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | Dimethyl 3-(2-hydroxyphenyl)-2-isoxazolin-5-ylphosphonate | 25.8 g | OC1=C(C=CC=C1)C1=NOC(C1)P(OC)(OC)=O | C11H14NO5P
